US04421758
1-[Trans-β-(6-hydroxymethyltetrahydropyran-2-yloxy)-2,4-dichlorophenethyl]imidazole
90 ml of dioxan and 20 ml of a 25% w/v aqueous solution of sodium hydroxide were added to 9.15 g of 1-[trans-β-(6-benzoyloxymethyltetrahydropyran-2-yloxy)-2,4-dichlorophenethyl]imidazole, and the mixture was refluxed for 6 hours. At the end of this time, the reaction mixture was cooled, diluted with water and extracted with diethyl ether. The ethereal extract was washed with aqueous sodium chloride and dried over anhydrous sodium sulphate, after which the solvent was evaporated off. The residue was purified by column chromatography through silica gel eluted with a 10:20:3 by volume mixture of benzene, ethyl acetate and ethanol, to give 5.34 g of the title compound as a liquid.

reactant | dioxan | 90 ml | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 1-[trans-β-(6-benzoyloxymethyltetrahydropyran-2-yloxy)-2,4-dichlorophenethyl]imidazole | 9.15 g | C(C1=CC=CC=C1)(=O)OC[C@H]1CCC[C@@H](O1)OC(CN1C=NC=C1)C1=C(C=C(C=C1)Cl)Cl | C24H24Cl2N2O4
solvent | water | O | H2O
product | 1-[Trans-β-(6-hydroxymethyltetrahydropyran-2-yloxy)-2,4-dichlorophenethyl]imidazole | 5.34 g | OC[C@H]1CCC[C@@H](O1)OC(CN1C=NC=C1)C1=C(C=C(C=C1)Cl)Cl | C17H20Cl2N2O3
